US07126027B2
4-n-Butyloxy-N-[(1-dimethylaminocyclohexyl)methyl]benzamide
Synthesised from 1-(dimethylaminocyclohexyl)methylamine and 4-butyloxy benzoyl chloride following the procedure of Example 1 (g and purified by LCMS to obtain the product as a trifluoroacetate salt. 1H NMR (CDCl3) δ: 0.97 (t, 3H, J=4 Hz), 1.18 (m, 1H), 1.49 (m, 2H), 1.67 (m, 4H), 1.80 (m, 5H), 2.01 (d, 2H, J=3 Hz), 2.79 (s, 6H), 4.01 (m, 4H), 6.93 (d, 2H, J=4 Hz), 8.18 (d, 2H, J=4 Hz), 8.47 (m, 1H), 11.90 (s, 1H). LCMS m/z 333.2 (MH+; 96.5%). HRMS (FAB) calc. 333.2539, found 333.2536.

reactant | 1-(dimethylaminocyclohexyl)methylamine | CN(C)C1(CCCCC1)CN | C9H20N2
reactant | 4-butyloxy benzoyl chloride | C(CCC)OC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
product | 4-n-Butyloxy-N-[(1-dimethylaminocyclohexyl)methyl]benzamide | C(CCC)OC1=CC=C(C(=O)NCC2(CCCCC2)N(C)C)C=C1 | C20H32N2O2
